US05721245
A solution of 200 mg of 3-[7-(2-acetoxyethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-furan-2,5-dione in 2 ml of dimethylformamide and 1 ml of 33% aqueous ammonia was heated to 140° C. Then, 1 ml of a 2M solution of sodium hydroxide was added to the cooled solution and the mixture was stirred for 2 hours. The mixture was acidified with 2M hydrochloric acid and evaporated. The residue was partitioned between ethyl acetate and water and the organic phase was dried. The solvent was evaporated and the solid obtained was triturated with ethyl acetate to give 115 mg of 3-[6,7,8,9-tetrahydro-7-(2-hydroxyethyl)pyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione of melting point 236°-238° C.

reactant | 3-[7-(2-acetoxyethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-furan-2,5-dione | 200 mg | C(C)(=O)OCCC1CCC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)C1 | C29H26N2O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ammonia | 1 ml | N | H3N
product | 3-[6,7,8,9-tetrahydro-7-(2-hydroxyethyl)pyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 115 mg | OCCC1CCC=2N(C3=CC=CC=C3C2C=2C(NC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)C1 | C27H25N3O3
